US07902187B2
2-amino-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
Anhydrous ethanol (2 mL) and anhydrous 1,4-dioxane (2 mL) were added to an argon-purged vial containing 2-amino-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one (see preparation Route A, 100 mg, 0.37 mmol), pyridine-4-boronic acid (69 mg, 0.56 mmol, 1.5 equiv.), K3PO4 (157 mg, 0.74 mmol, 2.0 equiv.), Pd(OAc)2 (12.5 mg, 0.018 mmol, 0.05 equiv.) and D-tBPF 1,1′-bis(di-tbutylphosphino)ferrocene (8.8 mg, 0.018 mmol, 0.05 equiv.) and the mixture was heated for 2.5 h in the microwave oven at 150° C. After cooling to ambient temperature, the reaction mixture was diluted with methanol (20 mL), filtered through a Nylon 0.45 μm filter and the filtrate concentrated in vacuo. Preparative HPLC purification of the residue afforded, after evaporation and drying, the desired compound as a yellow solid (59.2 mg, 51% yield) TFA salt. 1H NMR (300 MHz, CD3OD) δ, ppm: 8.92 (d, J=6.4 Hz, 2H), 8.17 (dd, J=5.1, 1.5 Hz, 2H), 4.87-4.55 (m, 1H), 4.10 (dd, J=11.4, 4.3 Hz, 2H), 3.56 (ddd, J=11.3, 6.5, 4.7 Hz, 2H), 2.74 (tdd, J=12.6, 12.5, 4.6 Hz, 2H), 1.77 (dd, J=12.4, 2.4 Hz, 2H); MS (EI) m/z 313.3 (MH)+.

reactant | 2-amino-6-chloro-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 0.37 mmol, 100 mg | NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)Cl | C10H12ClN5O2
reactant | pyridine-4-boronic acid | 0.56 mmol, 69 mg, 1.5 equiv. | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | K3PO4 | 0.74 mmol, 157 mg, 2.0 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd(OAc)2 | 0.018 mmol, 12.5 mg, 0.05 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-amino-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 59.2 mg, 51% yield | NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)C1=CC=NC=C1 | C15H16N6O2
